US06794509B1
2,6-Difluoropyridine (25 g), isopropyl alcohol (100 ml) and hydrazine hydrate (40 ml) were mixed and refluxed with heating for 3 hours. The isopropyl alcohol was evaporated under reduced pressure, and the residue was added with water. The deposited crystals were collected by filtration, washed with water and dried to obtain 6-fluoro-2-hydrazinopyridine (21.2 g, yield: 76.8%). Coloration was observed during drying, and accordingly, the product was used for the next reaction immediately after the drying.

reactant | 2,6-Difluoropyridine | 25 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | hydrazine hydrate | 40 ml | O.NN
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 6-fluoro-2-hydrazinopyridine | 21.2 g, yield: 76.8% | FC1=CC=CC(=N1)NN | C5H6FN3
